US07166588B2
2-[2-[2-Bromo-4-methoxy-5-(1-methylethoxy)phenyl]ethyl]-propanedioic acid dimethyl ester
1-Bromo-2-(2-iodoethyl)-4-(1-methylethoxy)-5-methoxybenzene (18.0 g, 45.1 mmol), potassium carbonate (32.0 g, 321 mmol, anhydrous, freshly ground) and malonic acid dimethyl ester (50.0 g, 378 mmol) are stirred in absolute DMF (200 ml) for 12 hours at 80° C.

reactant | 1-Bromo-2-(2-iodoethyl)-4-(1-methylethoxy)-5-methoxybenzene | 45.1 mmol, 18.0 g | BrC1=C(C=C(C(=C1)OC)OC(C)C)CCI | C12H16BrIO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | malonic acid dimethyl ester | 378 mmol, 50.0 g | COC(CC(=O)OC)=O | C5H8O4
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-[2-[2-Bromo-4-methoxy-5-(1-methylethoxy)phenyl]ethyl]-propanedioic acid dimethyl ester | COC(C(C(=O)OC)CCC1=C(C=C(C(=C1)OC(C)C)OC)Br)=O | C17H23BrO6
